US08404869B2
2-Allyloxy-1,4-benzoquinone (10.0 g, 60.9 mM) and 6,6-Dimethyl-1-Vinylcyclohexene (19.8 g, 183 mM) were dissolved in 100 ml of MeOH, and refluxed for 3 hours. 3-Allyloxy-8,8-dimethyl-5,6,7,8-tetrahydro-1,4-phenanthrenequinone (6.5 g, 22.0 mM) was obtained in the same manner as in Example 1.

reactant | 2-Allyloxy-1,4-benzoquinone | 60.9 mM, 10.0 g | C(C=C)OC=1C(C=CC(C1)=O)=O | C9H8O3
reactant | 6,6-Dimethyl-1-Vinylcyclohexene | 183 mM, 19.8 g | CC1(CCCC=C1C=C)C | C10H16
solvent | MeOH | 100 ml | CO | CH4O
product | 3-Allyloxy-8,8-dimethyl-5,6,7,8-tetrahydro-1,4-phenanthrenequinone | 22.0 mM, 6.5 g | C(C=C)OC1=CC(C2=CC=C3C(CCCC3=C2C1=O)(C)C)=O | C19H20O3
